US07763639B2
4-[2-CHLORO-3-(METHYLSULFONYL)PHENYL]-1-ETHYL-1,2,3,6-TETRAHYDROPYRIDINE
Preparation according to preparation 6: 4-[2-chloro-3-(methylsulfonyl)phenyl]-pyridine (1.77 g, 6.6 mmol), 1-iodoethane (5 ml), ethanol (40 ml), sodium borohydride (2.2 g, 58 mmol). Yield: 0.6 g. MS m/z (rel. intensity, 70 eV) 300 (M+, 24), 299 (M+, 71), 298 (33), 284 (bp), 110 (74).

reactant | 4-[2-chloro-3-(methylsulfonyl)phenyl]-pyridine | 6.6 mmol, 1.77 g | ClC1=C(C=CC=C1S(=O)(=O)C)C1=CC=NC=C1 | C12H10ClNO2S
reactant | 1-iodoethane | 5 ml | ICC | C2H5I
reactant | sodium borohydride | 58 mmol, 2.2 g | [BH4-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-[2-CHLORO-3-(METHYLSULFONYL)PHENYL]-1-ETHYL-1,2,3,6-TETRAHYDROPYRIDINE | ClC1=C(C=CC=C1S(=O)(=O)C)C=1CCN(CC1)CC | C14H18ClNO2S
